US06310039B1
N-(O-(3-maleinimidobenzoyl)-2-hydroxyethyl)-1.2-diaminoethane dihydrochloride
6 g (11.93 mmol) of N-(O-(3-maleinimidobenzoyl)-2-hydroxyethyl)-N,N′-bis-tertiarybutyloxycarbonyl-1,2-diaminoethane are diluted with 60 ml (5 eq) of a 1 M solution of HCl in diethylether while stirring at room temperature. After 48 h of stirring at room temperature, the fine-crystallinic precipitate is suctioned off over a G4 glass frit, freed of the HCl residues through multiple washing with anhydrous ether and dried under a vacuum. Obtained are 3.0 g (7.98 mmol) of the product as a fine-powdery yellow solid, corresponding to 66.9% of the theoretically possible yield. Elementary analysis for C15H19N3O4Cl2 (375.9 g/mol); calculated: C: 47.89%, H: 5.05%, N: 11.17%, Cl: 18.86%; found: C: 46.97%, H: 5.42%, N: 10.03%, Cl: 17.63%.

reactant | N-(O-(3-maleinimidobenzoyl)-2-hydroxyethyl)-N,N′-bis-tertiarybutyloxycarbonyl-1,2-diaminoethane | 11.93 mmol, 6 g | C1(C=CC(N1C=1C=C(C(=O)OCCN(CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=CC1)=O)=O | C25H33N3O8
reactant | HCl | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
product | N-(O-(3-maleinimidobenzoyl)-2-hydroxyethyl)-1.2-diaminoethane dihydrochloride | Cl.Cl.C1(C=CC(N1C=1C=C(C(=O)OCCNCCN)C=CC1)=O)=O | InChI=1S/C15H17N3O4.2ClH/c16-6-7-17-8-9-22-15(21)11-2-1-3-12(10-11)18-13(19)4-5-14(18)20;;/h1-5,10,17H,6-9,16H2;2*1H
